US05141955
N-(4-Methylphenyl)-2-benzylselenobenzamide
A suspension of 4 g (0.013 mol) 2-benzylselenobenzoic acid in 80 ml dichloromethane is cooled to 0°-5° C. and treated with stirring with 2 g (0.015 mol) chloromethylenedimethyliminium chloride (Vilsmeir's reagent) in one portion. After 1 hour a solution of 1.47 g (0.0137 mol) 4-methylaniline and 3 g (0.03 mol) triethylamine are added dropwise in the cold and stirring continued for 2 hours at room temperature. The solution is washed successively with

reactant | 2-benzylselenobenzoic acid | 0.013 mol, 4 g | C(C1=CC=CC=C1)C1=C(C(=[Se])O)C=CC=C1 | C14H12OSe
reactant | 4-methylaniline | 0.0137 mol, 1.47 g | CC1=CC=C(N)C=C1 | C7H9N
reactant | triethylamine | 0.03 mol, 3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-(4-Methylphenyl)-2-benzylselenobenzamide | CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)CC1=CC=CC=C1)=[Se] | C21H19NSe
